US20010049385A1
5-[(2-(2,4-Dichlorophenoxy)benzyloxy)methyl]-4,5,6,7-tetrahydro-1H-benzimidazole
A soution of a mixture of 5-[2-(2,4-dichlorophenoxy)benzyloxymethyl]-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-[2-(2,4-dichlorophenoxy)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (356 mg, 0.55 mmol) in a mixture of glacial acetic acid (9 ml) and water (1 ml) was heated to 70° C. for 2 hours. The reaction mixture was cooled to room temperature. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using DCM/methanol/−25% aqueous ammonia as eluent, to give 175 mg of the title compound. HPLC method C: elution at 11.42 min.

reactant | 5-[2-(2,4-dichlorophenoxy)benzyloxymethyl]-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | ClC1=C(OC2=C(COCC3CC4=C(N(C=N4)C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=CC(=C1)Cl | C40H34Cl2N2O2
reactant | 5-[2-(2,4-dichlorophenoxy)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 0.55 mmol, 356 mg | ClC1=C(OC2=C(COCC3CC4=C(N=CN4C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=CC(=C1)Cl | C40H34Cl2N2O2
reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
product | 5-[(2-(2,4-Dichlorophenoxy)benzyloxy)methyl]-4,5,6,7-tetrahydro-1H-benzimidazole | 175 mg | ClC1=C(OC2=C(COCC3CC4=C(NC=N4)CC3)C=CC=C2)C=CC(=C1)Cl | C21H20Cl2N2O2
